US04652552
Z-Phe-Gly-Leu-LeuCH3 was prepared by coupling Z-Phe-Gly-Leu-OH (2.23 g, 4.76 mmol) to H-LeuCH3.HBr by a procedure substantially similar to that described for preparation of Z-Phe-Gly-Ala-LeuCH3 in Example 1, above. Product was recrystallized from ethyl acetate to yield 2.34 g of Z-Phe-Gly-Leu-LeuCH3 (m.p. 165.5°-166.5°).

reactant | Z-Phe-Gly-Leu-OH | 4.76 mmol, 2.23 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C25H31N3O6
reactant | H-LeuCH3.HBr | N[C@@H](CC(C)C)C(=O)C.Br
reactant | Z-Phe-Gly-Ala-LeuCH3 | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)C)C(=O)OCC1=CC=CC=C1 | C29H38N4O6
product | Z-Phe-Gly-Leu-LeuCH3 | 2.34 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)C)C(=O)OCC1=CC=CC=C1 | C32H44N4O6
